### PR TITLE
feat(FieldTheory): Artin-Schreier extensions of fields

### PR DESCRIPTION
**Pull request by kedlaya**
Implement the Artin-Schreier description of cyclic degree-p extensions of fields of characteristic p. Split off from from #41911.

### CODE REVIEW

**Comment by JX-Mo** [comment]
Remove the space from the title as "feat(FieldTheory): Artin-Schreier extensions of fields" so it won't complain

You might need to click "update branch" at the bottom of this page to pass CI.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 1]
```diff
@@ -0,0 +1,247 @@
...
+lemma artinSchreierPoly_isMonicOfDegree {F : Type u} [CommRing F] [Nontrivial F] (a : F)
+    {p : ℕ} (hp : 1 < p) : (X ^ p - X - C a).IsMonicOfDegree p := by
+  rw [←sub_add_eq_sub_sub]
+  exact (isMonicOfDegree_X_pow F p).sub ((natDegree_X_add_C a).trans_lt hp)
+
+@[simp]
+lemma artinSchreierPoly_taylor {F : Type u} [CommRing F] (a c : F) {p : ℕ}
+    [CharP F p] (hp : p.Prime) :
+    (X ^ p - X - C a).taylor c = X^p - X + C (c^p - c - a) := by
+  have := fact_iff.mpr hp
```
Comment (JX-Mo) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
    [CharP F p] [Fact (Nat.Prime p)]:
    (X ^ p - X - C a).taylor c = X^p - X + C (c^p - c - a) := by
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 2]
```diff
@@ -0,0 +1,247 @@
...
+
+-/
+
+@[expose] public section
+universe u
+
+open IntermediateField Polynomial
+
+@[simp]
+lemma artinSchreierPoly_isMonicOfDegree {F : Type u} [CommRing F] [Nontrivial F] (a : F)
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean:31]: I'm generally opposed to these sorts of ad-hoc naming conventions (like writing `artinSchreierPoly` for `X ^ p - X - C a`), but I do recognize that the alternative is much worse. Can we at least document this somewhere, if it isn't already?

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 3]
```diff
@@ -0,0 +1,247 @@
...
+lemma artinSchreierPoly_taylor {F : Type u} [CommRing F] (a c : F) {p : ℕ}
+    [CharP F p] (hp : p.Prime) :
+    (X ^ p - X - C a).taylor c = X^p - X + C (c^p - c - a) := by
+  have := fact_iff.mpr hp
+  simp only [map_sub, taylor_pow, taylor_X, add_pow_char, taylor_C, map_pow]
+  ring
+
+variable {F : Type u} {K : Type u} {p : ℕ} [Field F] [Field K] [Algebra F K] [CharP F p]
+
+lemma artinSchreierPoly_splits (a : F) (hr : (X ^ p - X - C a).roots ≠ 0) :
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
lemma splits_artinSchreierPoly (a : F) (hr : (X ^ p - X - C a).roots ≠ 0) :
```
I also think `a` should be implicit, unless you're finding that you need to specify it explicitly more often than not.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 4]
```diff
@@ -0,0 +1,247 @@
...
+    Splits (X ^ p - X - C a) := by
+  rcases CharP.char_is_prime_or_zero F p with hp | rfl
+  · have := fact_iff.mpr hp
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
  · have := Fact.mk hp
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 5]
```diff
@@ -0,0 +1,247 @@
...
+    have ⟨c, _⟩ := Multiset.exists_mem_of_ne_zero hr
+    have := (Subfield.splits_bot F p).map (algebraMap _ F)
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean:53]: I'm confused about this. Doesn't `X ^ p - X` split in any field of characteristic `p ≠ 0`? Why does the lemma specialize this to the ⊥ subfield?

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 6]
```diff
@@ -0,0 +1,247 @@
...
+    have h : ((X ^ p - X - C a).taylor c).Splits := by simp_all
+    exact (splits_iff_comp_splits_of_natDegree_eq_one (natDegree_X_add_C c)).mpr h
+  · apply Splits.of_natDegree_le_one
+    compute_degree
+
+lemma artinSchreierPoly_irreducible (a : F) (hr : (X ^ p - X - C a).roots = 0) :
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]: Same remark about explicitness of `a` applies.
```suggestion
lemma irreducible_artinSchreierPoly (a : F) (hr : (X ^ p - X - C a).roots = 0) :
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 7]
```diff
@@ -0,0 +1,247 @@
...
+    Irreducible (X ^ p - X - C a) := by
+  open AdjoinRoot Multiset in
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]: I think it's more idiomatic to either
- Move this before the `lemma` keyword.
- Just namespace explicitly. You're only using this for three theorems.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 8]
```diff
@@ -0,0 +1,247 @@
...
+      contrapose hr
+      have ⟨x, hx⟩ := exists_root_of_natDegree_eq_one hr
+      apply eq_zero_iff_forall_notMem.mp.mt
+      push Not
+      exact ⟨x, (mem_roots h0).mpr (hx.dvd hb3)⟩
+    have h2 : b.natDegree ∣ (X ^ p - X - C a).natDegree := by
+      refine dvd_natDegree_of_monic_of_irreducible _ fun c hc0 hc hc1 ↦ ?_
+      have := fact_iff.mpr hc
+      let i := algebraMap F (AdjoinRoot c)
+      have hmap : (X ^ p - X - C a).map i = X^p - X - C (i a) := by aesop
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
      have hmap : (X ^ p - X - C a).map i = X^p - X - C (i a) := by simp
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 9]
```diff
@@ -0,0 +1,247 @@
...
+    have ⟨b, hb2, hb3⟩ := exists_irreducible_of_natDegree_pos (hp.pos.trans_eq hmon.1.symm)
+    have h1 : b.natDegree ≠ 1 := by
+      contrapose hr
+      have ⟨x, hx⟩ := exists_root_of_natDegree_eq_one hr
+      apply eq_zero_iff_forall_notMem.mp.mt
+      push Not
+      exact ⟨x, (mem_roots h0).mpr (hx.dvd hb3)⟩
+    have h2 : b.natDegree ∣ (X ^ p - X - C a).natDegree := by
+      refine dvd_natDegree_of_monic_of_irreducible _ fun c hc0 hc hc1 ↦ ?_
+      have := fact_iff.mpr hc
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
      have := Fact.mk hc
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 10]
```diff
@@ -0,0 +1,247 @@
...
+    Irreducible (X ^ p - X - C a) := by
+  open AdjoinRoot Multiset in
+  rcases CharP.char_is_prime_or_zero F p with hp | rfl
+  · have hmon := artinSchreierPoly_isMonicOfDegree a hp.one_lt
+    have h0 := IsMonicOfDegree.ne_zero hmon
+    have ⟨b, hb2, hb3⟩ := exists_irreducible_of_natDegree_pos (hp.pos.trans_eq hmon.1.symm)
+    have h1 : b.natDegree ≠ 1 := by
+      contrapose hr
+      have ⟨x, hx⟩ := exists_root_of_natDegree_eq_one hr
+      apply eq_zero_iff_forall_notMem.mp.mt
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean]:
```suggestion
      rw [eq_zero_iff_forall_notMem]
```

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean [hunk 11]
```diff
@@ -0,0 +1,247 @@
...
+      have := fact_iff.mpr hc
+      let i := algebraMap F (AdjoinRoot c)
+      have hmap : (X ^ p - X - C a).map i = X^p - X - C (i a) := by aesop
+      have hm0 := map_ne_zero (f := i) h0
+      have hdiv := map_dvd i hb3
+      have := (isRoot_root _).dvd (map_dvd i (y := X ^ p - X - C a) (by aesop))
+      have h : ((X ^ p - X - C a).map i).roots ≠ 0 := eq_zero_iff_forall_notMem.mp.mt (by aesop)
+      rw [hmap] at hm0 hdiv h
+      have := (Algebra.charP_iff F (AdjoinRoot c) p).mp ‹CharP F p›
+      rw [←(AdjoinRoot.isAdjoinRootMonic _ hc0).finrank]
```
Comment (vihdzp) [inline Mathlib/FieldTheory/ArtinSchreierExtension.lean:82]:
```suggestion
      rw [← (AdjoinRoot.isAdjoinRootMonic _ hc0).finrank]
```

**Review by vihdzp — COMMENTED** [review]
A few remarks. Haven't gone over the entire PR.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean (hunk 5 above)
Comment (kedlaya) [reply Mathlib/FieldTheory/ArtinSchreierExtension.lean:53]: You are correct, I have no idea why that was implemented that way.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean (hunk 2 above)
Comment (kedlaya) [reply Mathlib/FieldTheory/ArtinSchreierExtension.lean:31]: I added something to the text at top, but a further suggestion would be welcome.

File: Mathlib/FieldTheory/ArtinSchreierExtension.lean (hunk 9 above)
Comment (kedlaya) [reply Mathlib/FieldTheory/ArtinSchreierExtension.lean]: This occurred in a few other places too, I've changed them all.
